US06436953B1
C1. (7R,8R,9R)-2,3-Dimethyl-7,8-dihydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2h][1,7]-naphthyridine
6 g (19.52 mmol) of (8R,9R)-2,3-dimethyl 8 hydroxy-9-phenyl-7,8,9,10-tetra-hydroimidazo-[1,2-h][1,7]naphthyridin-7-one (see >90% Dalcet Chiralcel HPLC) are suspended in 60 ml of methanol and cooled to −5° to 0° C. in a methanol-ice bath. At this temperature, sodium borohydride (0.81 g, 21.47 mmol) is added by spatula during the course of 0.5 h (evolution of gas). After addition is complete, the mixture is stirred for a further 10 min, and then concentrated in a vacuum rotary evaporator at a bath temperature of 40° C. The oily residue obtained is taken up in distilled water and extracted three times with chloroform. The organic phases are combined and washed with a little water, then dried using anhydrous sodium sulfate and filtered. The filtrate is concentrated on a vacuum rotary evaporator and co-evaporated with acetone; the title compound crystallizes out in the course of this. The precipitate is filtered off, washed with acetone and dried to constant weight at 50° C. in a vacuum drying oven. 5.15 g (85.3%, ee>90%, Daicel Chiralcel HPLC) of the title compound are obtained as a colorless crystallize of melting point 206-9° C.

reactant | (8R,9R)-2,3-dimethyl 8 hydroxy-9-phenyl-7,8,9,10-tetra-hydroimidazo-[1,2-h][1,7]naphthyridin-7-one | 19.52 mmol, 6 g | CC=1N=C2N(C=CC=3C([C@@H]([C@H](NC23)C2=CC=CC=C2)O)=O)C1C | C18H17N3O2
reactant | sodium borohydride | 21.47 mmol, 0.81 g | [BH4-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
solvent | water | O | H2O
product | (7R,8R,9R)-2,3-Dimethyl-7,8-dihydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2h][1,7]-naphthyridine | CC=1N=C2N(C=CC=3[C@H]([C@@H]([C@H](NC23)C2=CC=CC=C2)O)O)C1C | C18H19N3O2
